US05583127
To a solution of 9.00 g of methyl (E)-3β,14β-dihydroxy-5β-pregn-20-ene-21-carboxylate (Boutagy J. and Thomas R., Aust. J. Pharm. Sci., 1972, NS1, 67) in 40 ml of pyridine, 0.04 g of 4-dimethylaminopyridine and 11.5 ml of acetic anhydride were added at room temperature, under nitrogen atmosphere. After 4 hrs the reaction was concentrated under reduced pressure, neutralized with aqueous sodium dihydrogenphosphate and then extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and evaporated to dryness to give 9.05 g of methyl (E)-3β-acetoxy-14β-hydroxy-5β-pregn-20-ene-21-carboxylate.

reactant | methyl (E)-3β,14β-dihydroxy-5β-pregn-20-ene-21-carboxylate | 9.00 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@H](/C=C/C(=O)OC)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C23H36O4
reactant | acetic anhydride | 11.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl (E)-3β-acetoxy-14β-hydroxy-5β-pregn-20-ene-21-carboxylate | 9.05 g | C(C)(=O)O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@H](/C=C/C(=O)OC)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C25H38O5
